US05283251
A mixture of 4-[1-(3-aminobenzoyl)-2-methylindol-3-yl]butyric acid (587 mg), bis(4-isobutylphenyl)methyl chloride (905 mg) and diisopropylethylamine (754 mg) in dichloromethane (20 ml) was stirred at 20° C. for 14 hours. The reaction mixture was poured into a mixture of ethyl acetate and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was chromatographed on a silica gel column (50 ml) eluting with a mixture of chloroform and methanol (50:1) to give 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]-2-methylindol-3-yl]butyric acid (720 mg).

reactant | 4-[1-(3-aminobenzoyl)-2-methylindol-3-yl]butyric acid | 587 mg | NC=1C=C(C(=O)N2C(=C(C3=CC=CC=C23)CCCC(=O)O)C)C=CC1 | C20H20N2O3
reactant | bis(4-isobutylphenyl)methyl chloride | 905 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)Cl | C21H27Cl
reactant | diisopropylethylamine | 754 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]-2-methylindol-3-yl]butyric acid | 720 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)N2C(=C(C3=CC=CC=C23)CCCC(=O)O)C)C=CC1 | C41H46N2O3
